US05643913
a) 2,4-Dimethoxy-5-iodo-pyrimidine
A dry 1 L round-bottomed flask was charged with 5-iodouracil (50 g, 0.21 mol), phosphorus oxychloride (300 ml), and N,N-diethylaniline (6 drops). The heterogenous mixture was heated in a 120° C. oil bath under a nitrogen atmosphere for 24 hours. The phosphorus oxychloride was distilled off (some product co-distills off). The reaction solution was next slowly and cautiously poured over ice (1 L) and solid sodium bicarbonate keeping the internal temperature at or below -20° C. (This was accomplished by cooling in a dry-ice acetone bath). Once the addition was complete, the reaction mixture was adjusted to pH 7 by addition of solid sodium bicarbonate. The mixture was extracted with methylene chloride and the organic fractions dried by passage through phase separator paper. The crude solution of 2,4-dichloro-5-iodopyrimidine was immediately added dropwise to a solution containing MeOH (400 ml) and sodium methoxide (28.8 g, 0.533 mol). This addition took 1 hour. The reaction was then stirred at room temperature overnight. The solution was neutralized with CO2 (gas), extracted with methylene chloride, dried over anhydrous Na2SO4, filtered and concentrated. The crude product was adsorbed onto silica gel (100 g) and loaded onto a 400 g silica gel flash chromatography column. The column was eluted with 90:10 hexanes:ethyl acetate (v:v). The appropriate fractions were combined and concentrated to a white solid as the title compound.

reactant | 5-iodouracil | 0.21 mol, 50 g | IC=1C(NC(NC1)=O)=O | C4H3IN2O2
reactant | phosphorus oxychloride | 300 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | sodium methoxide | 0.533 mol, 28.8 g | C[O-].[Na+]
reactant | CO2 | C(=O)=O | CO2
catalyst | N,N-diethylaniline | 6 drops | C(C)N(C1=CC=CC=C1)CC | C10H15N
solvent | MeOH | 400 ml | CO | CH4O
product | 2,4-Dimethoxy-5-iodo-pyrimidine | COC1=NC=C(C(=N1)OC)I | C6H7IN2O2
